### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Closed): functor categories are monoidal closed

### PR DESCRIPTION
**Pull request by joelriou**
---

- [x] depends on: #21436
- [x] depends on: #18976
- [x] depends on: #18414
- [x] depends on: #18009

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Closed/FunctorCategory/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,148 @@
...
+    rw [end_.lift_π, curry_uncurry, NatTrans.naturality_assoc]
+    dsimp
+    rw [end_.lift_π, enrichedOrdinaryCategorySelf_eHomWhiskerRight,
+      enrichedOrdinaryCategorySelf_eHomWhiskerLeft]
+    dsimp
+    rw [pre_id, NatTrans.id_app, Functor.map_id, Category.comp_id, Category.comp_id]
+    congr
+    dsimp [Under.map, Comma.mapLeft]
+    simp only [Category.comp_id]
+    rfl
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Closed/FunctorCategory/Basic.lean:87]:
```suggestion
    simp? [enrichedOrdinaryCategorySelf_eHomWhiskerLeft, Under.map, Comma.mapLeft] says
      simp only [diagram_obj_obj, Functor.comp_obj, Under.forget_obj, enrichedCategorySelf_hom,
        curry_uncurry, NatTrans.naturality_assoc, functorEnrichedHom_obj, functorEnrichedHom_map,
        Under.map, Comma.mapLeft, Functor.const_obj_obj, Functor.id_obj, Discrete.natTrans_app,
        StructuredArrow.left_eq_id, end_.lift_π, Under.mk_right, Under.mk_hom, Iso.refl_inv,
        NatTrans.id_app, enrichedOrdinaryCategorySelf_eHomWhiskerRight, pre_id, Iso.refl_hom,
        enrichedOrdinaryCategorySelf_eHomWhiskerLeft, Functor.map_id, Category.comp_id]
    congr
    simp
```

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Closed/FunctorCategory/Basic.lean:87]: A slightly more automated version, if you'd like. But your version is maybe more readable, feel free
to ignore this suggestion.

File: Mathlib/CategoryTheory/Closed/FunctorCategory/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,148 @@
...
+
+lemma homEquiv_naturality_two_symm (f₂ : F₂ ⟶ F₂') (g : F₂' ⟶ functorEnrichedHom C F₁ F₃) :
+    homEquiv.symm (f₂ ≫ g) = F₁ ◁ f₂ ≫ homEquiv.symm g := by
+  dsimp [homEquiv]
+  ext j
+  dsimp
+  rw [← uncurry_natural_left]
+  congr 1
+  simp only [Category.assoc]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Closed/FunctorCategory/Basic.lean:96]:
```suggestion
  simp
```

File: Mathlib/CategoryTheory/Closed/FunctorCategory/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,148 @@
...
+open Enriched.FunctorCategory
+
+variable {C : Type u₁} [Category.{v₁} C] [MonoidalCategory C] [MonoidalClosed C]
+  {J : Type u₂} [Category.{v₂} J]
+  [∀ (F₁ F₂ : J ⥤ C), HasFunctorEnrichedHom C F₁ F₂]
+
+attribute [local simp] enrichedCategorySelf_hom enrichedCategorySelf_id
+  enrichedCategorySelf_comp enrichedOrdinaryCategorySelf_eHomWhiskerLeft
+  enrichedOrdinaryCategorySelf_eHomWhiskerRight
+
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Closed/FunctorCategory/Basic.lean:37]:
```suggestion
  
```

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Closed/FunctorCategory/Basic.lean:37]: These don't seem to do anything

**Review by dagurtomas — APPROVED** [review]
Thanks! Just a few minor suggestions.

maintainer delegate

File: Mathlib/CategoryTheory/Closed/FunctorCategory/Basic.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Closed/FunctorCategory/Basic.lean]: Thanks for the reviews! I have applied the modifications.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
